US08008303B2
(R)-2-(6-Chloro-4′-ethoxycarbonyl-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of 5′-amino-2′-chloro-biphenyl-4-carboxylic acid ethyl ester (800 mg), (R) —N-Boc-2-pyrrolidinecarboxylic acid (608 mg) and HBTU (1.46 g) in dry DMF (30 ml) containing N-methylmorpholine (1.26 ml) was stirred at room temp for 18 h. Silica gel (5 g) was then added and the mixture evaporated. The residue was purified by chromatography. Elution with 12:1 petrol:ethyl acetate gave a viscous brown gum (987 mg)

reactant | 5′-amino-2′-chloro-biphenyl-4-carboxylic acid ethyl ester | 800 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)Cl | C15H14ClNO2
reactant | (R) —N-Boc-2-pyrrolidinecarboxylic acid | 608 mg | C(=O)(OC(C)(C)C)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | HBTU | 1.46 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 1.26 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (R)-2-(6-Chloro-4′-ethoxycarbonyl-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 987 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(NC=1C=C(C(=CC1)Cl)C1=CC=C(C=C1)C(=O)OCC)=O | C25H29ClN2O5
